US08053438B2
3-Oxocyclohex-1-enyl trifluoromethanesulfonate (9 g, 36.9 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (10.30 g, 40.5 mmol), and potassium acetate (7.23 g, 73.7 mmol) were suspended in 100 ml dioxane. Argon was bubbled through the reaction mixture for 5 minutes, and dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium (ii) (2.107 g, 2.58 mmol) was added. The mixture was stirred at 80° C. for 3 h, cooled to RT, and concentrated under reduced pressure. Water (300 ml) was added and the mixture was extracted with EtOAc (3×200 ml). The combined organic layer were washed by brine and dried over sodium sulfate. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (0% to 20% EtOAc in hexanes) afforded 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-enone as colorless crystals.

reactant | 3-Oxocyclohex-1-enyl trifluoromethanesulfonate | 36.9 mmol, 9 g | FC(S(=O)(=O)OC1=CC(CCC1)=O)(F)F | C7H7F3O4S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 40.5 mmol, 10.30 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 73.7 mmol, 7.23 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium (ii) | 2.58 mmol, 2.107 g | [Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-enone | CC1(OB(OC1(C)C)C1=CC(CCC1)=O)C | C12H19BO3
